US07572921B2
A mixture of 2-(3-methoxy-phenoxymethyl)-1-(tetrahydro-furan-2-yl)-1H-imidazole 1N HCl (20 mL) and THF (20 mL) was stirred at 50° C. for 24 h. Saturated NaHCO3 was added to adjust the pH to 8. The mixture was extracted with CH2Cl2 (3×100 mL). The combined CH2Cl2 extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 1:2 hexane/EtOAc) to provide the desired 2-(3-methoxy-phenoxymethyl)-1H-imidazole (2.40 g, 92%) as a white solid: ESI MS m/z 205 [C11H12N2O2+H]+.

reactant | 2-(3-methoxy-phenoxymethyl)-1-(tetrahydro-furan-2-yl)-1H-imidazole | 1N, 20 mL | COC=1C=C(OCC=2N(C=CN2)C2OCCC2)C=CC1 | C15H18N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-methoxy-phenoxymethyl)-1H-imidazole | 2.40 g, 92% | COC=1C=C(OCC=2NC=CN2)C=CC1 | C11H12N2O2
